US08008302B2
Step d) 1-(5-(2-thienyl)-1,2,4-oxadiazol-3-yl)piperazine, dihydrochloride
A solution of tert-butyl 4-(5-(2-thienyl)-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate (2.2 g) in 2M HCl in Et2O (50 mL) was stirred at RT for 6 hours. The solvent was removed under vacuum to give 1.6 g (78%) of The title compound as a solid. TLC—CHCl3/MeOH (8/2): Rf=0.2. HPLC purity >98%.

reactant | tert-butyl 4-(5-(2-thienyl)-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate | 2.2 g | S1C(=CC=C1)C1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20N4O3S
reactant | HCl | 2M | Cl | ClH
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 1-(5-(2-thienyl)-1,2,4-oxadiazol-3-yl)piperazine, dihydrochloride | 1.6 g, 78% | Cl.Cl.S1C(=CC=C1)C1=NC(=NO1)N1CCNCC1 | InChI=1S/C10H12N4OS.2ClH/c1-2-8(16-7-1)9-12-10(13-15-9)14-5-3-11-4-6-14;;/h1-2,7,11H,3-6H2;2*1H
